US07001897B2
To a solution of 1-(4-phthalimidomethyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine (726 mg, 1.85 mmol) (obtained as described in Reference Example 68(3)) in dimethylformamide (22 ml) was added potassium thioacetate (1.26 g, 11.1 mmol) at room temperature, and the mixture was stirred in an oil bath (90° C.) for 6.5 hours. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and 10% aqueous sodium chloride solution. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (1:1) as the eluant to afford 3-acetylthio-1-(4-phthalimidomethyl-1,3-thiazol-2-yl)azetidine (599 mg, yield 87%) as a pale brown solid.

reactant | 1-(4-phthalimidomethyl-1,3-thiazol-2-yl)-3-methanesulfonyloxyazetidine | 1.85 mmol, 726 mg | C1(C=2C(C(N1CC=1N=C(SC1)N1CC(C1)OS(=O)(=O)C)=O)=CC=CC2)=O | C16H15N3O5S2
reactant | potassium thioacetate | 11.1 mmol, 1.26 g | C(C)(=S)[O-].[K+]
solvent | dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
product | 3-acetylthio-1-(4-phthalimidomethyl-1,3-thiazol-2-yl)azetidine | 599 mg, yield 87% | C(C)(=O)SC1CN(C1)C=1SC=C(N1)CN1C(C=2C(C1=O)=CC=CC2)=O | C17H15N3O3S2
